US05707547
After replacing the inner atmosphere of a four-necked flask equipped with a stirring device and a thermometer with nitrogen gas, the flask was charged with 1.0 g (2.26 mmol) of the 2-{4-(1-decenyl)-phenyl}-5-trifluoromethylsulfonyloxypyrimidine obtained above. Then, 0.01 g (0.008 mmol) of tetrakis-triphenylphosphine-palladium, 0.27 g (6.78 mmol) of sodium hydroxide and 20 ml of tetrahydrofuran were added thereto. Further, 19.5 ml of a solution prepared by dissolving 3.39 mmol of E-6-hydroxy-1-heptenyldihydroxyborane, prepared in the same manner as in Example 4, in tetrahydrofuran was dropwise added thereto at room temperature. The whole mixture was heated under reflux with stirring for 8 hours, and cooled to room temperature. After extraction with 30 ml of toluene, the organic layer was twice washed with each 10 ml portion of saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate. After distilling off the solvent, the residue was purified by silica gel column chromatography to obtain 0.63 g (yield 69%) of 2-{4-(1-decenyl)-phenyl}-5-(6-hydroxy-1-heptenyl)-pyrimidine.

reactant | 2-{4-(1-decenyl)-phenyl}-5-trifluoromethylsulfonyloxypyrimidine | 2.26 mmol, 1.0 g | C(=CCCCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)OS(=O)(=O)C(F)(F)F | C21H25F3N2O3S
reactant | sodium hydroxide | 6.78 mmol, 0.27 g | [OH-].[Na+]
reactant | E-6-hydroxy-1-heptenyldihydroxyborane | 3.39 mmol | OC(CCC/C=C/B(O)O)C | C7H15BO3
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
product | 2-{4-(1-decenyl)-phenyl}-5-(6-hydroxy-1-heptenyl)-pyrimidine | 0.63 g, yield 69% | C(=CCCCCCCCC)C1=CC=C(C=C1)C1=NC=C(C=N1)C=CCCCC(C)O | C27H38N2O
